US07750154B2
N-Cyclopropyl-4-methyl-3-[6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzamide hydrochloride salt
Using an analogous procedure to that described in Example 45, 4N HCl in dioxane was reacted with N-cyclopropyl-4-methyl-3-[6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzamide to gave the title compound; NMR Spectrum: (DMSOd6) 0.57 (m, 2H), 0.70 (m, 2H), 2.14 (s, 3H), 2.82 (d, 3H), 2.87 (m, 1H), 3.22 (m, 4H), 3.52 (d, 2H), 4.01 (m, 2H), 7.53 (d, 1H), 7.58 (d, 1H), 7.70 (m, 2H), 7.85 (s, 1H), 7.92 (m, 1H), 8.17 (s, 1H), 8.48 (d, 1H), 11.05 (s, 1H).

reactant | HCl | 4N | Cl | ClH
reactant | N-cyclopropyl-4-methyl-3-[6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C)=O | C24H27N5O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-Cyclopropyl-4-methyl-3-[6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzamide hydrochloride salt | Cl.C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C)=O | InChI=1S/C24H27N5O2.ClH/c1-16-3-4-17(23(30)26-18-5-6-18)13-22(16)29-15-25-21-8-7-19(14-20(21)24(29)31)28-11-9-27(2)10-12-28;/h3-4,7-8,13-15,18H,5-6,9-12H2,1-2H3,(H,26,30);1H
